US07361764B2
Step 2: Synthesis of {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-carbamic acid isopropyl ester
Into a 3 mL reation vial were added 2-isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide (30 mg, 0.053 mmol), methylene chloride (1 mL), iPr2EtN (21 μL, 0.060 mmol), and isopropyl alcohol (50 μL, 6.5 mmol). The solution was stirred at room temperature for at least 12 h and monitored by HPLC. The reaction mixture was concentrated then re-dissolved in MeOH (1 mL), and cooled to 0° C. and treated with 100 μL 50% (w/w) aqueous KOH for 30 min or until Ts-removal was complete. The reaction was quenched by addition of 500 μL glacial acetic acid and then concentrated in vacuum. Purification by mass-triggered HPLC (formic acid ACN/H2O gradient) followed by lyophilization provided 12.2 mg of the title compound as a white powder. 1H-NMR (500 MHz, d6-DMSO) δ=11.91 (br.s, 1H), 8.96 (br.s., 1H), 8.53 (d, J=2.0 Hz, 1H), 8.15 (d, J=2.0 Hz, 1H), 7.73 (m, 3H), 7.60 (d, J=9.0 Hz, 1H), 7.59 (s, 1H), 7.29 (dd, J=1.5, 7.2 Hz, 1H), 7.12 (d, J=7 Hz, 1H), 7.04 (t, J=7 Hz, 1H), 4.84 (m, 1H), 3.81 (s, 3H), 2.97, 2,92 (br s, 6H), 1.23 (d, J=6, 6H); MS: m/z 473.1 [M+H+].

reactant | 2-isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.053 mmol, 30 mg | N(=C=O)C1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S
reactant | iPr2EtN | 0.060 mmol, 21 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isopropyl alcohol | 6.5 mmol, 50 μL | C(C)(C)O | C3H8O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-carbamic acid isopropyl ester | 12.2 mg | C(C)(C)OC(NC1=C(C=C(C=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)C(N(C)C)=O)=O | C27H28N4O4
